US06248766B1
[(2-(1,2-Diphenylethyl)thio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic Acid
Using ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate and 1-bromo-1,2-diphenylethane, the procedure of Example 1 was otherwise repeated to synthesize the title compound. Yield 41%.

reactant | ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate | C(C)OC(COC1=C2CCC3=C(N=C(S3)S)C2=CC=C1)=O | C15H15NO3S2
reactant | 1-bromo-1,2-diphenylethane | BrC(CC1=CC=CC=C1)C1=CC=CC=C1 | C14H13Br
product | [(2-(1,2-Diphenylethyl)thio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic Acid | Yield 41% | C1(=CC=CC=C1)C(CC1=CC=CC=C1)SC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)O | C27H23NO3S2
